US07211572B2
To a solution of methyl 5-benzyloxy-6-(3-chlorobenzylcarbamoyl)-1-(2,2-dimethoxyethyl)-4-oxo-1,4-dihydropyridine-3-carboxylate (2.0 g) in tetrahydrofuran (20 ml)-methanol (10 ml) was added 4N aqueous lithium hydroxide solution (1.5 ml) and the mixture was stirred at 70° C. for 1 hr. The precipitated solid was removed by thin layer of celite and washed with methanol. The solvent was evaporated and 1N aqueous hydrochloric acid (6.5 ml) and water (50 ml) were added. The mixture was extracted twice with ethyl acetate (75 ml each). The ethyl acetate layer was dried, concentrated and crystallized from ethyl acetate-diisopropyl ether to give 5-benzyloxy-6-(3-chlorobenzylcarbamoyl)-1-(2,2-dimethoxyethyl)-4-oxo-1,4-dihydropyridine-3-carboxylic acid (1.2 g).

reactant | methyl 5-benzyloxy-6-(3-chlorobenzylcarbamoyl)-1-(2,2-dimethoxyethyl)-4-oxo-1,4-dihydropyridine-3-carboxylate | 2.0 g | C(C1=CC=CC=C1)OC=1C(C(=CN(C1C(NCC1=CC(=CC=C1)Cl)=O)CC(OC)OC)C(=O)OC)=O | C26H27ClN2O7
reactant | methanol | 10 ml | CO | CH4O
reactant | lithium hydroxide | 4N, 1.5 ml | [OH-].[Li+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 5-benzyloxy-6-(3-chlorobenzylcarbamoyl)-1-(2,2-dimethoxyethyl)-4-oxo-1,4-dihydropyridine-3-carboxylic acid | 1.2 g | C(C1=CC=CC=C1)OC=1C(C(=CN(C1C(NCC1=CC(=CC=C1)Cl)=O)CC(OC)OC)C(=O)O)=O | C25H25ClN2O7
